US07902252B2
4.22. Synthesis of methyl 6-(3-hydroxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
Methyl 6-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (140 mg, 0.50 mmol) in dry CH2Cl2 (20 mL) was cooled to −78° C., then BBr3, (1.0 M in CH2Cl2) (0.80 mL, 0.80 mmol) was added. The mixture was allowed to warm slowly to room temperature overnight. The mixture was added to saturated sodium bicarbonate, (100 mL) extracted with CH2Cl2, (50 mL) (×3), dried (Na2SO4) and the solvent was evaporated under reduced pressure. The material was purified by chromatography, eluting with heptane-EtOAc, gradient 0 to 50% EtOAc. 50 mg. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.07-2.19 (m, 1H), 2.48-2.74 (m, 4H), 2.90 (dd, J=13.42, 6.30 Hz, 1H), 3.26-3.44 (m, 1H), 3.79 (s, 3H), 6.62 (s, 1H), 6.70 (d, J=1.71 Hz, 1H), 6.72-6.80 (m, 2H), 7.21 (t, J=7.81 Hz, 1H), 8.29 (br. s, 1H).

reactant | Methyl 6-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.50 mmol, 140 mg | COC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=CC1 | C17H19NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-(3-hydroxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | OC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=CC1 | C16H17NO3
